US04932983
4,4'-methylene-bis(2,6-diethyl aniline) (23.25 g, 0.075 mol)
in N-methylpyrrolidone (350 ml) was added 5,5'[2,2,2-trifluoro-1-(trifluoromethyl)ethylidene]-bis-1,3-isobenzofurandione (67.27 g, 0.1515 mol) under an inert atmosphere at room temperature. The resulting viscous orange solution was stirred overnight at room temperature. A solution of acetic anhydride (61.25 ml, 0.60 mol) and triethylamine (60.71 ml, 0.60 mol) was added with rapid stirring at room temperature. After stirring for 3 hours, the solution was diluted with additional N-methylpyrrolidone and precipitated in water. The resulting solid was collected and washed twice with water, washed twice with methanol, and allowed to air dry. The solid was further dried in a vacuum oven at 20 inches (0.51 m) mercury and 100° C. for 15 hours and at 245° C. for 4 hours to yield 99.4 g product.

reactant | 5,5'[2,2,2-trifluoro-1-(trifluoromethyl)ethylidene]-bis-1,3-isobenzofurandione | 0.1515 mol, 67.27 g | FC(C(C(F)(F)F)(C=1C=C2C(OC(C2=CC1)=O)=O)C=1C=C2C(OC(C2=CC1)=O)=O)(F)F | C19H6F6O6
reactant | acetic anhydride | 0.60 mol, 61.25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.60 mol, 60.71 ml | C(C)N(CC)CC | C6H15N
reactant | N-methylpyrrolidone | 350 ml | CN1C(CCC1)=O | C5H9NO
product | 4,4'-methylene-bis(2,6-diethyl aniline) | 99.4 g | C(C1=CC(=C(N)C(=C1)CC)CC)C1=CC(=C(N)C(=C1)CC)CC | C21H30N2
